US05872118
h) Preparation of (E)-2-(6-Fluoro-3-methyl-1-indanylidene)acetyl Chloride
This compound was prepared in an analogous manner to Example 15h with the replacement of (E)-2-(6-fluoro-3,3-dimethyl-1-indanylidene)acetic acid with (E)-2-(6-fluoro-3-methyl-1-indanylidene)acetic acid (9 g, 43.6 mmol). The product residue was dissolved in dichloromethane and used, without purification, in Example 17, 18, and 19.

reactant | (E)-2-(6-fluoro-3-methyl-1-indanylidene)acetic acid | 43.6 mmol, 9 g | FC1=CC=C2C(C/C(/C2=C1)=C\C(=O)O)C | C12H11FO2
reactant | dichloromethane | ClCCl | CH2Cl2
product | (E)-2-(6-Fluoro-3-methyl-1-indanylidene)acetyl Chloride | FC1=CC=C2C(C/C(/C2=C1)=C\C(=O)Cl)C | C12H10ClFO
